US04075221
In the manner given in Example 1, a solution of 8-methylthio-1-methyl-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine in dimethylformamide, N,N,N',N'-tetraethyldiaminomethane and acetyl bromide (in 0.5 molar excess compared to the N,N,N',N'-tetraethyldiaminomethane) are reacted together to give 8-methylthio-1-[2-(diethylamino)ethyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8-methylthio-1-methyl-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CSC=1C=CC2=C(C(=NCC=3N2C(=NN3)C)C3=CC=CC=C3)C1 | C18H16N4S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N,N',N'-tetraethyldiaminomethane | CCN(CC)CN(CC)CC | C9H22N2
solvent | acetyl bromide | C(C)(=O)Br | C2H3BrO
product | 8-methylthio-1-[2-(diethylamino)ethyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CSC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCN(CC)CC)C3=CC=CC=C3)C1 | C23H27N5S
